US06965033B2
A solution of 2-chloro-4-floro-5-methylnitrobenzene (1 mmole) in DMF (5 mL) was treated with fresh sodium methoxy (1.1 mmole), and the mixture was stirred for 6 h. Evaporation and chromatography gave 2-chloro-4-methoxy-5-methylnitrobenzene.

reactant | 2-chloro-4-floro-5-methylnitrobenzene | 1 mmole | ClC1=C(C=C(C(=C1)F)C)[N+](=O)[O-] | C7H5ClFNO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-4-methoxy-5-methylnitrobenzene | ClC1=C(C=C(C(=C1)OC)C)[N+](=O)[O-] | C8H8ClNO3
